US05173489
Part D: Preparation of 5,5-Bis(4-pyridinylmethyl)indeno-[1,2-b]pyridine
Following the procedure described in Example 608, Part D, alkylation of 2.1 g (12.6 mmole) of 4-azafluorene, in the presence of 1.51 g (31.45 mmole) of 50% sodium hydride with 5.0 g (30.4 mmole) of 4-picolyl-chloride yielded 2.8 g. Flash chromatography with ethyl acetate yielded 2.0 g of material containing a small amount of color. Recrystallization from butyl chloride yielded 1.5 g of pure compound, m.p. 163-4°.

reactant | 4-azafluorene | 12.6 mmole, 2.1 g | C1=CC=NC=2C3=CC=CC=C3CC12 | C12H9N
reactant | sodium hydride | 31.45 mmole, 1.51 g | [H-].[Na+]
reactant | 4-picolyl-chloride | 30.4 mmole, 5.0 g | N1=CC=C(C=C1)CCl | C6H6ClN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,5-Bis(4-pyridinylmethyl)indeno-[1,2-b]pyridine | 2.0 g | N1=CC=C(C=C1)CC1(C2=CC=CC=C2C2=NC=CC=C21)CC2=CC=NC=C2 | C24H19N3
